US08008298B2
A flask was charged with 1-(3-bromo-5-ethoxy-phenyl)-pyrrolidine (86 mg, 0.32 mmol), bis(pinacolato)diboron (97 mg, 0.38 mmol), and KOAc (94 mg, 0.96 mmol). DMSO (2 ml) was added, and the solution was vacuum degassed under argon. Bis(diphenylphosphino)ferrocene]palladium(ll) dichloride dichloromethane complex (8 mg, 0.01 mmol) was added, and the reaction mixture was heated (80° C.) in a oil bath for 4 hours. The reaction mixture was filtered through a plug of celite using ethyl acetate. The filtrate was transferred to a separatory funnel and shaken with water (25 ml). The organic phase was collected and the aqueous phase back extracted with ethyl acetate (2×20 ml). The organic phases were combined, dried (MgSO4), filtered and stripped to provide a crude oil. This material was purified by preparative TLC, eluting with 17% ethyl acetate in hexanes to afford 54 mg of 1-[3-ethoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-pyrrolidine as a light purple viscous oil.

reactant | 1-(3-bromo-5-ethoxy-phenyl)-pyrrolidine | 0.32 mmol, 86 mg | BrC=1C=C(C=C(C1)OCC)N1CCCC1 | C12H16BrNO
reactant | bis(pinacolato)diboron | 0.38 mmol, 97 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 0.96 mmol, 94 mg | CC(=O)[O-].[K+]
catalyst | Bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | 1-[3-ethoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-pyrrolidine | 54 mg | C(C)OC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)N1CCCC1 | C18H28BNO3
